US05292835
522 g of dodecylbenzene
48 g of a mixture of 36 g of 3,3-bis(p-dimethylaminophenyl)-6-dimethylaminophthalide and 12 g of N-benzoylleuco methylene blue

reactant | 3,3-bis(p-dimethylaminophenyl)-6-dimethylaminophthalide | 36 g | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)N(C)C)C1=CC=C(C=C1)N(C)C)C | C26H29N3O2
reactant | N-benzoylleuco methylene blue | 12 g | CN(C)C1=CC2=C(C=C1)N(C3=C(S2)C=C(C=C3)N(C)C)C(=O)C4=CC=CC=C4 | C23H23N3OS
product | dodecylbenzene | C(CCCCCCCCCCC)C1=CC=CC=C1 | C18H30
